US08629150B2
A mixture of 6-(6-chloro-2-(methylthio)pyrimidin-4-ylamino)nicotinic acid (280 mg) and 3,3′-(butane-1,4-diylbis(oxy))dipropan-1-amine (1928 mg) was heated at 100° C. for 16 hours. After cooling to room etmperature, the mixture was diluted with EtOAc (200 mL), washed with H2O (100 mL), brine (100 mL), and dried over MgSO4 and concentrated. The residue was purified by preparative HPLC to give 6-(6-(3-(4-(3-aminopropoxy)butoxy)propylamino)-2-(methylthio)pyrimidin-4-ylamino)nicotinic acid (40 mg).

reactant | 6-(6-chloro-2-(methylthio)pyrimidin-4-ylamino)nicotinic acid | 280 mg | ClC1=CC(=NC(=N1)SC)NC1=NC=C(C(=O)O)C=C1 | C11H9ClN4O2S
reactant | 3,3′-(butane-1,4-diylbis(oxy))dipropan-1-amine | 1928 mg | C(CCCOCCCN)OCCCN | C10H24N2O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 6-(6-(3-(4-(3-aminopropoxy)butoxy)propylamino)-2-(methylthio)pyrimidin-4-ylamino)nicotinic acid | 40 mg | NCCCOCCCCOCCCNC1=CC(=NC(=N1)SC)NC1=NC=C(C(=O)O)C=C1 | C21H32N6O4S
